US05114960
1 g (0.003 mol) of methyl 3a,5,6,7,8,8a-hexahydro-3-(4-isopropylphenyl)-4H-cyclohept[d]isoxazole-6-carboxylate (diastereoisomer B) was dissolved in 30 ml of glacial acetic acid containing a few drops of concentrated sulfuric acid. The mixture was stirred and heated at 45° C., whereupon 0.79 g (0.0075 mol) of chromium trioxide was added and the heating was continued for 10 minutes. The acetic acid was removed by evaporation. The mixture was made basic with 2N sodium carbonate solution and extracted with ethyl acetate. Evaporation of the ethyl acetate extract and purification of the residue by column chromatography on silica gel using hexane/ethyl acetate (2:1) for the elution gave 0.408 g of methyl 5,6,7,8-tetrahydro-3-(4-isopropylphenyl)-4H-cyclohept[d]isoxazole-6-carboxylate; NMR: δ CDCl3 : 7.47 (m, 2H), 7.3 (m, 2H), 3.74 (s, 3H), 3.2 (m, 1H), 3.02-2.68 (m, 4H), 2.55 (m, 1 H), 2.3-2.1 (m, 2H), 2.01-1.75 (m, 2H), 1.25 (d, 6H).

reactant | methyl 3a,5,6,7,8,8a-hexahydro-3-(4-isopropylphenyl)-4H-cyclohept[d]isoxazole-6-carboxylate | 0.003 mol, 1 g | C(C)(C)C1=CC=C(C=C1)C1=NOC2C1CCC(CC2)C(=O)OC | C19H25NO3
catalyst | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | 0.0075 mol, 0.79 g | [O-2].[O-2].[O-2].[Cr+6]
product | methyl 5,6,7,8-tetrahydro-3-(4-isopropylphenyl)-4H-cyclohept[d]isoxazole-6-carboxylate | 0.408 g | C(C)(C)C1=CC=C(C=C1)C1=NOC2=C1CCC(CC2)C(=O)OC | C19H23NO3
